US06242443B1
6-Chloro-3-(1,2-dimethylpropyl)amino-7-sulfamoyl-4H-1,2,4-benzothiadiazine 1,1-dioxide
The title compound was prepared from 6-chloro-2,3-dihydro-3-oxo-7-sulfamoyl-1,2,4-benzothiadiazine 1,1-dioxide (4.94 g, 15.84 mmol) and 1,2-dimethylpropylamine hydrochloride (8.0 g, 65.0 mmol) by a method analogous to the method described in example 37, except that the product was purified by column chromatography affording 143 mg (2.4%) of pure product; m.p. (DSC) 244° C. (methanol); 1H-NMR (DMSO-d6): δ 0.90 (dd, 6H, CH(CH3)2), 1.11 (d, 3H, NCHCH3), 1.76 (m, 1H, CH(CH3)2), 3.71 (m, 1H, NHCH), 7.34 (br., 1H, NH), 7.41 (br.s, 1H, ArH), 7.80 (br.s, 2H, SO2NH2), 8.18 (s, 1H, ArH), 10.58 (br.s, 1H, NH); MS (FAB): m/e 381/383 (MH+); (C12H17N4Cl1O4S2) calc. C, 37.84; H, 4.50; N, 14.71; found C, 37.66; H, 4.65; N, 14.52.

reactant | 6-chloro-2,3-dihydro-3-oxo-7-sulfamoyl-1,2,4-benzothiadiazine 1,1-dioxide | 15.84 mmol, 4.94 g | ClC=1C(=CC2=C(NC(NS2(=O)=O)=O)C1)S(N)(=O)=O | C7H6ClN3O5S2
reactant | 1,2-dimethylpropylamine hydrochloride | 65.0 mmol, 8.0 g | Cl.CC(C(C)C)N
product | 6-Chloro-3-(1,2-dimethylpropyl)amino-7-sulfamoyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C(=CC2=C(NC(=NS2(=O)=O)NC(C(C)C)C)C1)S(N)(=O)=O | C12H17ClN4O4S2
